US04402960
A solution of 2.164 g of 3-chloroperbenzoic acid (80%) in 150 ml of dichloromethane is added dropwise to a solution of 4.03 g of 4,5-bis(4-methoxyphenyl)-2-phenylthio-1-methylimidazole in 100 ml of dichloromethane. The solution is agitated for 3 hours at room temperature, washed with sodium bicarbonate solution, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is chromatographed on 200 g of silica gel with ethyl acetate/cyclohexane 2:3, thus obtaining 3.05 g of 4,5-bis(4-methoxyphenyl)-2-phenylsulfinyl-1-methylimidazole, which has a melting point of 114°-115° after recrystallization from dichloromethane/ether.

reactant | 3-chloroperbenzoic acid | 2.164 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,5-bis(4-methoxyphenyl)-2-phenylthio-1-methylimidazole | 4.03 g | COC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)OC)C)SC1=CC=CC=C1 | C24H22N2O2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4,5-bis(4-methoxyphenyl)-2-phenylsulfinyl-1-methylimidazole | 3.05 g | COC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)OC)C)S(=O)C1=CC=CC=C1 | C24H22N2O3S
